US05424295
6-Pyrrolidinopurine (Sigma Chemical Co., St. Louis, Mo.) (2.6 mmoles), 0.5 g, and uracil arabinoside (5.29 mmoles, 1.29 g) were suspended in 100 ml of a 10 mM potassium phosphate 0.04% potassium azide solution with a pH of 7.4. Purified uridine phosphorylase (6000 I.U.) and purine nucleoside phosphorylase (8400 I.U.) (Krenitsky, T. A., et al. Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 35° C. Twenty days later the reaction was filtered and the filtrate chromatographed on a column containing Dowex-1-hydroxide resin (2.5×8 cm). The product was eluted from the column with 90% methanol/water (v/v). Fractions containing product were combined and the solvent removed under vacuum. The residue was dissolved in 50 ml of 30% n-propanol and water (v/v) and chromatographed on a BioRad P-2 column (5×90 cm). The product was eluted with 30% n-propanol/water (v/v). Product-containing fractions were combined and the solvent was removed under vacuum yielding 0.573 g of 9-β-D-arabinofuranosyl-6-pyrrolidino-9H-purine. NMR and mass spectrometry were consistent with the structure. Anal. Calcd. for C14H19N5O4 : Calcd: C, 52.33; H, 5.96 N, 21.79. Found: C, 52.60; H, 6.09; N, 21.51.

reactant | 6-Pyrrolidinopurine | 2.6 mmoles | N1(CCCC1)C1=C2NC=NC2=NC=N1 | C9H11N5
reactant | uracil arabinoside | 5.29 mmoles, 1.29 g | C1=CN(C(=O)NC1=O)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
reactant | potassium phosphate | 10 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
product | 9-β-D-arabinofuranosyl-6-pyrrolidino-9H-purine | 0.573 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C2=NC=NC(=C2N=C1)N1CCCC1 | C14H19N5O4
